US04058557
To 2.9 (36.0 mmol) of fifty percent (w/w) sodium hydroxide suspended in tetrahydrofuran (50 ml.) is added 6.0 g. (18.0 mmol) of N-amidinoisooxazolidine sulfate and the mixture stirred for 1 hour. Five (5.0) grams of anhydrous sodium sulfate are added and the mixture stirred for an additional hour. To this mixture are added 5.4 g. (36.0 mmol) of 2,6-dimethylphenylisocyanate and the mixture stirred for 3 hours. Thin layer chromotography (ethyl acetate) showed no starting isocyanate so the tetrahydrofuran is removed under vacuum. The residue is partitioned between water and chloroform. The layers are separated and the aqueous layer extracted with chloroform (1×100 ml.). The combined chloroform extracts are dried over anhydrous magnesium sulfate, filtered and concentrated to give an oil which is dissolved in methanol and acidified (pH=1) with methanolic hydrochloric acid. The methanol is removed to give an oil which is triturated with diethyl ether to give a solid which is crystallized from tetrahydrofuran/hexane to give N-[(2,6-dimethylphenylcarbamoyl)amidino] isooxazolidine hydrochloride, m.p. 147°-8° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-amidinoisooxazolidine sulfate | 18.0 mmol | S(=O)(=O)(O)O.C(N)(=N)N1OCCC1
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,6-dimethylphenylisocyanate | 36.0 mmol | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
reactant | isocyanate | [N-]=C=O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(2,6-dimethylphenylcarbamoyl)amidino] isooxazolidine hydrochloride | Cl.CC1=C(C(=CC=C1)C)NC(=O)NC(=N)N1OCCC1 | InChI=1S/C13H18N4O2.ClH/c1-9-5-3-6-10(2)11(9)15-13(18)16-12(14)17-7-4-8-19-17;/h3,5-6H,4,7-8H2,1-2H3,(H3,14,15,16,18);1H
